US03991070
EXAMPLE 12 1-Bromo-8-trifluoromethyl-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine
The 5-trifluoromethyl-2-(3-bromo-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl)benzophenone is reacted with hydrazine to form the titled product.

reactant | 5-trifluoromethyl-2-(3-bromo-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl)benzophenone | FC(C=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)Br)(F)F | C25H14BrF3N4O3
reactant | hydrazine | NN | H4N2
product | 1-Bromo-8-trifluoromethyl-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)C(F)(F)F | C17H10BrF3N4
